US06911462B2
Bis-bicyclo[2:2:1]heptane-2-carbonyl benzimidazole was prepared as follows: oxalyl chloride (1.07 ml, 2 M in CH2Cl2) was added to bicyclo[2.2.1]heptane carboxylic acid (0.305 g, 2.14 mmole) followed by one drop DMF. The mixture was allowed to react at RT for 1.0 hour. To the above solution was added 2-(4-aminophenyl)-6-amino-benzimidazole (0.200 g, 0.89 mmole) in pyridine (2 ml). The reaction was heated to 60° C. overnight. The reaction was cooled and the precipitate filtered and washed with NaHCO3 and hexanes. The resulting solid was purified by preparative HPLC to give a solid that was 68% pure.

reactant | oxalyl chloride | 2 M, 1.07 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | bicyclo[2.2.1]heptane carboxylic acid | 2.14 mmole, 0.305 g | C12(CCC(CC1)C2)C(=O)O | C8H12O2
reactant | 2-(4-aminophenyl)-6-amino-benzimidazole | 0.89 mmole, 0.200 g | NC1=CC=C(C=C1)C=1NC2=C(N1)C=C(C=C2)N | C13H12N4
catalyst | DMF | one drop | CN(C)C=O | C3H7NO
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | heptane-2-carbonyl benzimidazole | CC(CCCCC)C(=O)C=1NC2=C(N1)C=CC=C2 | C15H20N2O
